US04230850
6-Methyl-4-(2'-morpholinoethoxy)-3-phenyl-coumarin
This compound is prepared as described in Example 8 from 19.4 g. (0.077 mol) of 6-methyl-4-hydroxy-3-phenyl-coumarin and 16.1 g. (0.1 mol) of 2-morpholino-2-chlorethane. Weight 21.7 g.; yield 77% (theoretical yield 28.2 g.). M.P. 96° C.

reactant | 6-methyl-4-hydroxy-3-phenyl-coumarin | 0.077 mol | CC=1C=C2C(=C(C(OC2=CC1)=O)C1=CC=CC=C1)O | C16H12O3
reactant | 2-morpholino-2-chlorethane | 0.1 mol | O1CCN(CC1)C(C)Cl | C6H12ClNO
product | 6-Methyl-4-(2'-morpholinoethoxy)-3-phenyl-coumarin | yield 77% | CC=1C=C2C(=C(C(OC2=CC1)=O)C1=CC=CC=C1)OCCN1CCOCC1 | C22H23NO4
